US07582668B2
1,1-Dimethylethyl {(1S)-2-[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2yl)methyl]ethyl}carbamate
A solution of 1,1-dimethylethyl{(1S)-2-[4-(bromoacetyl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate (6.9 mmol), 3-bromo-2-pyridinamine (8.4 mmol), and sodium bicarbonate (10.4 mmol) in isopropanol (70 mL) were stirred at 80° C. for 18 h. The reaction was then cooled to RT and a precipitate formed which was filtered, washed with cold hexanes (3×100 mL), and dried to afford the title compound as light gray solid (72%). ESMS [M+H]+: 576.2.

reactant | 1,1-dimethylethyl{(1S)-2-[4-(bromoacetyl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate | 6.9 mmol | CC(C)(C)N(C([O-])=O)[C@@H](CC1=CC=C(C=C1)C(CBr)=O)CN1C(C2=CC=CC=C2C1=O)=O
reactant | 3-bromo-2-pyridinamine | 8.4 mmol | BrC=1C(=NC=CC1)N | C5H5BrN2
reactant | sodium bicarbonate | 10.4 mmol | C([O-])(O)=O.[Na+]
solvent | isopropanol | 70 mL | C(C)(C)O | C3H8O
product | 1,1-Dimethylethyl {(1S)-2-[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2yl)methyl]ethyl}carbamate | 72% | BrC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)C[C@@H](CN2C(C1=CC=CC=C1C2=O)=O)NC(OC(C)(C)C)=O | C29H27BrN4O4
